US03932465
A solution of 2.0 g of 3-(5-fluor-2-hydroxy-benzyl)7β-phenylacetylamino-ceph-2-em-4ξ-carboxylic acid in 10 ml of isopropanol is treated at 0°-5° in small amounts with 1.2 g of 3-chloro-perbenzoic acid and stirred for 2 hours. The reaction mixture is concentrated to half-volume and diluted with 10 ml of diethyl ether. The crystalline precipitate that forms is filtered off and recrystallised from methyl acetate to yield the 3-(5-fluoro-2-hydroxy-benzyl)-7-phenylacetylamino-ceph-3-em-4-carboxylic acid 1-oxide, which melts at 183°-185°; thin-layer chromatogram (silica gel) Rf = 0.48 (system: n-butanol/acetic acid/water 75:7.5:21), Rf = 0.64 (system: n-butanol/ethanol/water 40:10:50) and Rf = 0.77 (system: chloroform/methanol 1:1).

reactant | 3-(5-fluor-2-hydroxy-benzyl)7β-phenylacetylamino-ceph-2-em-4ξ-carboxylic acid | 2.0 g | FC=1C=CC(=C(CC2=CS[C@H]3N(C2C(=O)O)C([C@H]3NC(CC3=CC=CC=C3)=O)=O)C1)O | C22H19FN2O5S
reactant | 3-chloro-perbenzoic acid | 1.2 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | isopropanol | 10 ml | C(C)(C)O | C3H8O
product | 3-(5-fluoro-2-hydroxy-benzyl)-7-phenylacetylamino-ceph-3-em-4-carboxylic acid 1-oxide | FC=1C=CC(=C(CC=2CS([C@H]3N(C2C(=O)O)C(C3NC(CC3=CC=CC=C3)=O)=O)=O)C1)O | C22H19FN2O6S
